US08168659B2
Stir 4-(3-fluoro-phenyl)-N-(4-trifluoromethoxy-phenyl)-4-hydroxy-butyramide (2.45 g, 6.86 mmol) and p-toluenesulfonyl chloride (1.63 g, 8.60 mmol) in dry tetrahydrofuran (30 mL) under nitrogen. Cool to −40° C. and slowly add potassium t-butoxide (1M in tetrahydrofuran) (17.2 mL, 17.2 mmol). Allow to warm slowly to room temperature and stir for 2 hours. Add aqueous NH4Cl solution and extract with ethyl acetate, wash with brine and dry over anhydrous magnesium sulfate. Evaporate and purify on a silica gel column (dichloromethane-ethyl acetate) to give (±)-5-(3-fluoro-phenyl)-1-(4-trifluoromethoxy-phenyl)-pyrrolidin-2-one (1.9 g, 82% yield) MS (m/z): 340 (M+1). Instrumentation

reactant | 4-(3-fluoro-phenyl)-N-(4-trifluoromethoxy-phenyl)-4-hydroxy-butyramide | 6.86 mmol, 2.45 g | FC=1C=C(C=CC1)C(CCC(=O)NC1=CC=C(C=C1)OC(F)(F)F)O | C17H15F4NO3
reactant | p-toluenesulfonyl chloride | 8.60 mmol, 1.63 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | potassium t-butoxide | 17.2 mmol, 1M, 17.2 mL | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (±)-5-(3-fluoro-phenyl)-1-(4-trifluoromethoxy-phenyl)-pyrrolidin-2-one | 1.9 g, 82% yield | FC=1C=C(C=CC1)C1CCC(N1C1=CC=C(C=C1)OC(F)(F)F)=O | C17H13F4NO2
